US04677115
Step A: Preparation of 4-(N-Ethyl-N-acetylamino)-5,6-dihydro-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide
To a mixture of 4-(N-ethylamino)-5,6-dihydro-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide (1.2 g, 0.0035 mol) in THF (30 ml) and triethylamine (1.1 ml, 0.79 g, 0.0078 mol) under N2 was added dropwise at room temperature a solution of acetyl chloride (0.26 ml, 0.28 g, 0.0036 mol) in THF (15 ml). After 2 hours, the mixture was poured into a saturated solution of NaHCO3 and extracted with ethyl acetate (3x). The organic extracts were dried, filtered and concentrated to dryness to yield 1.0 g (83%) of product.

reactant | 4-(N-ethylamino)-5,6-dihydro-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | 0.0035 mol, 1.2 g | C(C)NC1C2=C(S(CC1)(=O)=O)SC(=C2)S(=O)(=O)N | C9H14N2O4S3
reactant | triethylamine | 0.0078 mol, 1.1 ml, 0.79 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.0036 mol, 0.26 ml, 0.28 g | C(C)(=O)Cl | C2H3ClO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 4-(N-Ethyl-N-acetylamino)-5,6-dihydro-4H-thieno[2,3-b]thiopyran-2-sulfonamide-7,7-dioxide | 1.0 g, 83% | C(C)N(C(C)=O)C1C2=C(S(CC1)(=O)=O)SC(=C2)S(=O)(=O)N | C11H16N2O5S3
